US08071595B2
A mixture of 4-bromo-5-(4-methoxyphenyl)-2,2-dimethylfuran-3(2H)-one (2 g, 0.0067 mol), 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline (2.43 g, 0.0067 mol), and Cs2CO3 (11 g, 0.034 mol) in toluene (25 mL) and water (8 mL) was degassed. Pd(dppf)Cl2(1.1 g, 0.0013 mol) was then added under an inert atmosphere and the mixture was degassed again. The reaction mixture was refluxed for 3 h, filtered through a pad of Celite®. The filtrate was diluted with EtOAc (100 mL), washed with water (50 mL) and brine (50 mL), dried over Na2SO4, filtered and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 5-(4-methoxyphenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (2.3 g, 74%) as solid. 1H NMR (500 MHz, d6-DMSO): δ 8.42 (d, J=7.6 Hz, 1H), 8.06-7.99 (m, 2H), 7.95 (t, J=7.2 Hz, 1H), 7.72 (t, J=7.2 Hz, 1H), 7.63 (t, J=7.8 Hz, 1H), 7.56 (d, J=7.2 Hz, 2H); 7.18 (d, J=7.4 Hz, 2H), 7.12 (d, J=7.2 Hz, 2H), 6.89 (d, J=7.2 Hz, 2H), 5.38 (s, 2H), 3.79 (s, 3H).1.42 (s, 6H). MS: M+H: m/z=452.1; M+Na: m/z=474.2. HPLC: 96%, Column: Eclipse XDB-C18, 150×4.6 mm, Sum. Mobile Phase: 0.1% TFA in Water (A), AcN (B), Flow rate: 1.5 ml/min (Gradient)

reactant | 4-bromo-5-(4-methoxyphenyl)-2,2-dimethylfuran-3(2H)-one | 0.0067 mol, 2 g | BrC=1C(C(OC1C1=CC=C(C=C1)OC)(C)C)=O | C13H13BrO3
reactant | 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline | 0.0067 mol, 2.43 g | CC1(OB(OC1(C)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C | C22H24BNO3
reactant | Cs2CO3 | 0.034 mol, 11 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 8 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.0013 mol, 1.1 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-methoxyphenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 2.3 g, 74% | COC1=CC=C(C=C1)C1=C(C(C(O1)(C)C)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C29H25NO4
